US05914339
5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2,2-dimethyl-propyl) ester
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and 2,2-dimethylpropanol according to the procedure of Example 1 as an off-white foam (HCl salt); 1H NMR (CDCl3) δ 0.924 (s, 18H), 1.45 (d, 2H), 1.75 (s, 2H), 2.80 (m, 1H), 3.17 (m, 1H), 3.45 (m, 1H), 3.98 (s, 4H), 5.45-5.55 (bd, 1H), 5.63-5.67 (bs, 1H), 6.75-6.80 (m, 2H), 6.80-6.89 (m, 2H), 7.25-7.35 (m, 3H), 7.440 (s, 1H), 8.75 (bs, 1H), 10.10 (bs, 1H); IR (KBr) 3355 cm-1 (--OH), 1767 cm-1 (C=O); MS (ES) m/z 562.3 (MH+); [α]D25 -23° (c, 1.0, CHCl3). Anal. Calcd. for C30H40ClNO7 : C, 60.20; H, 6.90; N, 2.34; Cl, 11.85. Found: C, 59.74; H, 6.97; N, 2.23; Cl, 11.60.

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | 2,2-dimethylpropanol | CC(CO)(C)C | C5H12O
reactant | HCl | Cl | ClH
reactant | KBr | [K+].[Br-]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2,2-dimethyl-propyl) ester | CC(COC(=O)C1(OC2=C(O1)C=CC(=C2)C[C@@H](C)NC[C@H](O)C2=CC(=CC=C2)Cl)C(=O)OCC(C)(C)C)(C)C | C30H40ClNO7
